US07456164B2
Intermediate 23: 2,2-Dimethyl-3-pyrrolidin-1-yl-propan-1-ol
Pyrrolidine (1.82 g, 25 mmol), K2CO3 (3.0 g, 1.04 eq.), 3-bromo-2,2-dimethyl-propan-1-ol (8.45 g, 50 mmol, 2 eq.) were heated together at 90° C. overnight. The reaction was allowed to cool to room temperature and quenched with 2M HCl solution (50 ml) and extracted with TBME (3×50 ml). The aqueous phase was basified to pH 14 with 2M NaOH solution and extracted with DCM (3×50 ml). The combined organic extracts were dried over MgSO4, filtered, washed with DCM and concentrated in vacuo to give the title compound (1.03 g, 26%) as a pale yellow oil.

reactant | Pyrrolidine | 25 mmol, 1.82 g | N1CCCC1 | C4H9N
reactant | K2CO3 | 3.0 g, 1.04 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-2,2-dimethyl-propan-1-ol | 50 mmol, 8.45 g, 2 eq. | BrCC(CO)(C)C | C5H11BrO
product | 2,2-Dimethyl-3-pyrrolidin-1-yl-propan-1-ol | 1.03 g, 26% | CC(CO)(CN1CCCC1)C | C9H19NO
